US07534797B2
4-Bromo-7-chloro-8-fluoro-2-phenyl-quinoline
Phosphorus oxybromide (19 g, 0.066 mole), 7-chloro-8-fluoro-2-phenyl-1H-quinolin-4-one (6.2 g, 0.022 mole) and acetonitrile (40 mL) were combined in a 150 mL pressure bottle with a magnetic stir bar. The flask was heated at 100° C. and stirred overnight. Heat was removed, and an ice-water bath was installed. After 10 minutes, the bottle was opened, and water (60 mL) was added to the cooled stirring reaction. The quenching was exothermic to ca. 50° C. After stirring 10 minutes, a nice, filterable solid had formed, however, the reaction was extracted with 100 mL, then 3×50 mL methylene chloride. The extracts were combined, washed with saturated sodium bicarbonate solution (100 mL), and suction filtered through a small pad of silica gel, rinsing with methylene chloride. The filtrate was concentrated in vacuo, and put under high vacuum at 45° C. for 1 h to afford the crude product, which was recrystallized from 100 mL of ethanol, suction filtered to collect, and washed with ethanol. The purified product was vacuum oven dried for 1 h at 45° C. to afford the title compound as a white solid. A second crop was taken. The mother liquor was concentrated then chromatographed on silica gel with hexanes/methylene chloride 1:1 and combined with the second crop to afford additional material; 1H NMR (CDCl3, 400 MHz) δ 7.49-7.55 (m, 4H), 7.87-7.90 (dd, 1H, J=1.7 Hz & J=8.9Hz), 8.15-8.18 (dd, 2H, J=1.5 Hz & J=7.9 Hz), 8.21 (s, 1H); HPLC tR=4.15 min (OpenLynx, nonpolar—5 min).

reactant | Phosphorus oxybromide | 0.066 mole, 19 g | P(=O)(Br)(Br)Br | Br3OP
reactant | 7-chloro-8-fluoro-2-phenyl-1H-quinolin-4-one | 0.022 mole, 6.2 g | ClC1=CC=C2C(C=C(NC2=C1F)C1=CC=CC=C1)=O | C15H9ClFNO
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 4-Bromo-7-chloro-8-fluoro-2-phenyl-quinoline | BrC1=CC(=NC2=C(C(=CC=C12)Cl)F)C1=CC=CC=C1 | C15H8BrClFN
